US04229461
3.22 g of the thus obtained 2-methylthiazolidine-2-carboxylic acid methyl ester was added to a solution of 0.80 g of caustic soda in 20 ml of water and stirred at room temperature to give an aqueous solution of sodium 2-methylthiazolidine-2-carboxylate. To the solution was added 3.76 g of 3,5-dichlorophenylisocyanate in 20 ml of chlorobenzene, followed by stirring at room temperature for 1.5 hours. Then the reaction mixture was extracted with ether and the water layer was neutralized with concentrated hydrochloric acid. The resulting crystals were separated, washed with water and dried to give 5.22 g (yield 77.9%) of 2-methyl-3-(3,5-dichlorophenylcarbamoyl)thiazolidine-2-carboxylic acid with a melting point of 164°-166° C. The results of the elementary analysis were as follows: Found (calculated in parentheses): C 43.21% (43.00%), H 3.58% (3.61%), N 8.28% (8.36%), Cl 21.28% (21.15%).

reactant | 2-methylthiazolidine-2-carboxylic acid methyl ester | COC(=O)C1(SCCN1)C | C6H11NO2S
reactant | caustic soda | 0.80 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | sodium 2-methylthiazolidine-2-carboxylate | CC1(SCCN1)C(=O)[O-].[Na+] | InChI=1S/C5H9NO2S.Na/c1-5(4(7)8)6-2-3-9-5;/h6H,2-3H2,1H3,(H,7,8);/q;+1/p-1
